US07307086B2
2,2,2-Trifluoro-N-{2-[4-(trifluoromethyl)phenyl]ethyl}acetamide
To a solution of 2-[4-(trifluoromethyl)phenyl]ethanamine (9.7 g, 44 mmol) and N,N-diisopropylethylamine (13 mL, 77 mmol) in methylene chloride (80 mL) cooled in an ice bath was slowly added trifluoroacetic anhydride (9.05 mL, 64 mmol) via a syringe. After being stirred in the ice bath for 10 min, the ice bath was removed and stirring continued for an additional 30 min. The reaction was quenched by addition of water and the resulting solution was extracted with methylene chloride twice. The combined extracts were washed with 1 N HCl and brine, dried (MgSO4), filtered, and concentrated to give the crude product (14.2 g). Crystallization from EtOAc and hexanes provided the title compound (8.5 g, 68%) as white needles. MS calculated for C11H9F6NO: (M+H)+286; found 286.0.

reactant | 2-[4-(trifluoromethyl)phenyl]ethanamine | 44 mmol, 9.7 g | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
reactant | N,N-diisopropylethylamine | 77 mmol, 13 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 64 mmol, 9.05 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-{2-[4-(trifluoromethyl)phenyl]ethyl}acetamide | 8.5 g, 68% | FC(C(=O)NCCC1=CC=C(C=C1)C(F)(F)F)(F)F | C11H9F6NO
